US06919356B2
Part F: Preparation of trans-1-[2-(4-fluorophenyl)ethyl]-4-methyl-piperidin-3-ylmethylamine
A mixture of trans-3-azidomethyl-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidine (252 mg, 911 μmol) and 10% palladium on charcoal (90 mg) in ethanol (25 mL) was shaken under a hydrogen atmosphere (60 psig) for 4 hours. The mixture was filtered and the filtrate was concentrated under vacuum to provide a sticky solid (226 mg, quantitative). 1H NMR (300 MHz, CDCl3) δ7.16 (m, 2H), 6.97 (t, J=9 Hz, 2H), 3.12 (m, 1H), 2.98 (m, 1H), 2.93 (dd, J=13, 3 Hz, 1H), 2.80 (m, 2H), 2.58 (m, 3H), 1.99 (m, 1H), 1.80 (m, 1H), 1.8-1.6 (m, 3H), 1.5-1.1 (m, 3H), 0.97 (d, J=6 Hz, 3H). Mass spec (ES+) m/z 251.1 (M+H+, 100%).

reactant | trans-3-azidomethyl-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidine | 911 μmol, 252 mg | N(=[N+]=[N-])C[C@@H]1CN(CC[C@H]1C)CCC1=CC=C(C=C1)F | C15H21FN4
catalyst | palladium on charcoal | 90 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | trans-1-[2-(4-fluorophenyl)ethyl]-4-methyl-piperidin-3-ylmethylamine | FC1=CC=C(C=C1)CCN1C[C@H]([C@@H](CC1)C)CN | C15H23FN2
